US03933816
to bis(4-methylpiperazino)methane in ether is added an equimolecular amount of acetyl chloride. After stirring for 1/2 hour, the colorless solid which separates is recovered by filtration providing 4-methyl-1-methylenepiperazinium chloride which is used in the next example.

reactant | bis(4-methylpiperazino)methane | CN1CCN(CC1)CN1CCN(CC1)C | C11H24N4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | ether | CCOCC | C4H10O
product | 4-methyl-1-methylenepiperazinium chloride | [Cl-].CN1CC[N+](CC1)=C | InChI=1S/C6H13N2.ClH/c1-7-3-5-8(2)6-4-7;/h1,3-6H2,2H3;1H/q+1;/p-1
